US06903120B2
1-Bromo-3-methylsulfanyl-benzene (5.0 g, 24.6 mmol) was dissolved in dry THF (40 ml) and cooled to −78° C. under a stream of Argon (g). n-BuLi (12.8 ml, 2.5 M in hexane, 31.9 mmol) was added dropwise via syringe and the reaction mixture was stirred for an additional 30 min at −78° C., then the temperature was increased to 0° C. for 5 min and then decreased to −78° C. 1-tert-Butoxycarbonyl-4-piperidone (5.4 g, 27.06 mmol) dissolved in dry THF (30 ml) was added via syringe. The reaction mixture was allowed to reach room temperature and then stirred for 1 hour, and finally quenched with saturated ammonium chloride solution (30 ml). The mixture was extracted several times with EtOAc and the combined organic phases were dried (MgSO4), filtered and evaporated to dryness. The oily residue was chromatho-graphed on a silica column using CH2Cl2:MeOH (19:1 (v/v)) as eluent, yielded 4-hydroxy-4-(3-methylsulfanyl-phenyl)-piperidin-1-carboxylic acid tert-butyl ester (6 g, 76%). MS m/z (relative intensity, 70 eV) 323.1 (M+, 6), 223.0 (11), 178.0 (7), 152 (3), 57.0 (bp), 56 (30).

reactant | 1-Bromo-3-methylsulfanyl-benzene | 24.6 mmol, 5.0 g | BrC1=CC(=CC=C1)SC | C7H7BrS
reactant | n-BuLi | 31.9 mmol, 2.5 M, 12.8 ml | [Li]CCCC
reactant | 1-tert-Butoxycarbonyl-4-piperidone | 27.06 mmol, 5.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-hydroxy-4-(3-methylsulfanyl-phenyl)-piperidin-1-carboxylic acid tert-butyl ester | 6 g, 76% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC(=CC=C1)SC)O | C17H25NO3S
